US06995174B2
To a solution of (2S,4R) Fmoc-4-amino-1-boc-pyrrolidine-2-carboxylic acid (400 mg, 0.884 mmol) in acetonitrile (15 mL), five drops of pyrrolidine was added. The reaction mixture was stirred at rt for 3 hr. Then it was concentrated and put on high vacuum to give crude 4-amino-1-boc-pyrrolidine-2-carboxylic acid. In another round-bottomed flask, a solution of Pd2 dba3 (40 mg, 5% mol) and racemic-BINAP (56 mg, 10% mol) was stirred under nitrogen in degassed toluene (8 mL) at rt for 1 h. Then 1-chloroisoquinoline (216 mg, 1.326 mmol) and sodium t-butoxide (340 mg, 3.536 mmol) were added and the reaction mixture was stirred for 30 min. Then 4-amino-1-boc-pyrrolidine-2-carboxylic acid was added and the reaction mixture was heated under reflux for 1 h. Water was added to quench the reaction and the aqueous layer was separated and filtered through filter paper. It was then concentrated and purified by Prep. HPLC to give coupled product as TFA salt. (165 mg, 40% yield)

reactant | (2S,4R) Fmoc-4-amino-1-boc-pyrrolidine-2-carboxylic acid | 0.884 mmol, 400 mg | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)[C@@]1(N(C[C@@H](C1)N)C(=O)OC(C)(C)C)C(=O)O | C25H28N2O6
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
catalyst | pyrrolidine | five drops | N1CCCC1 | C4H9N
product | 4-amino-1-boc-pyrrolidine-2-carboxylic acid | 40% yield | NC1CC(N(C1)C(=O)OC(C)(C)C)C(=O)O | C10H18N2O4
